US04284766
(b) (6R,7R)-3-Carbamoyloxymethyl-7-[Z-2-(fur-2-yl)-2-methoxyiminoacetamido]ceph-3-em-4-carboxylic acid (cefuroxime)
A solution of (6R,7R)-3-phosphonocarbamoyloxymethyl-7-[Z-2-(fur-2-yl)-2-methoxyiminoacetamido]ceph-3-em-4-carboxylic acid (0.35 g) in water (4 ml) and dioxan (1 ml) was kept successively at 40° for 5 hours, room temperature for 16 hours, 40° for 6 hours and 20° for 16 hours. The conversion to the title compound was monitored by t.l.c. A precipitate was formed and this was filtered off. The pH was altered from 4 to 7 by addition of saturated aqueous sodium bicarbonate solution.

reactant | (6R,7R)-3-phosphonocarbamoyloxymethyl-7-[Z-2-(fur-2-yl)-2-methoxyiminoacetamido]ceph-3-em-4-carboxylic acid | 0.35 g | P(=O)(O)(O)NC(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(\C(=N/OC)\C=2OC=CC2)=O)=O | C16H17N4O11PS
solvent | water | 4 ml | O | H2O
solvent | dioxan | 1 ml | O1CCOCC1 | C4H8O2
product | (6R,7R)-3-Carbamoyloxymethyl-7-[Z-2-(fur-2-yl)-2-methoxyiminoacetamido]ceph-3-em-4-carboxylic acid | C(N)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(\C(=N/OC)\C=2OC=CC2)=O)=O | C16H16N4O8S
